US03957761
A stirred mixture of 1,3-dioxo-2-isoindolineacetic acid, [[N-(2-benzoyl-4-chlorophenyl)-1,3-dioxo-2-isoindolineacetamido]methylene]hydrazide (8.0 g, 0.0123 mole) and toluene (200 ml) is treated with trifluoroacetic acid (0.9 ml) and heated to 100°-110°C for 1.5 hours. The mixture is concentrated in vacuo, and the residue is mixed with cold water and chloroform and made alkaline with aqueous sodium hydroxide. This mixture is extracted with chloroform; the extract is washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on silica gel (400 g) with 1.5% methanol-98.5% chloroform. The product thus obtained is crystallized from methylene chloride-methanol to give: 2.54 g, melting point 228°- 228.5°C. and 0.361 g, melting point 229°-230°C. (53% yield) of 5-chloro-2-[3-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone. The analytical sample has a melting point 229.5°-230.5°.

reactant | 1,3-dioxo-2-isoindolineacetic acid, [[N-(2-benzoyl-4-chlorophenyl)-1,3-dioxo-2-isoindolineacetamido]methylene]hydrazide | 0.0123 mole, 8.0 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N(C(CN1C(C2=CC=CC=C2C1=O)=O)=O)C=NNC(CN1C(C2=CC=CC=C2C1=O)=O)=O | C34H22ClN5O7
reactant | trifluoroacetic acid | 0.9 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-2-[3-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | 0.361 g, 53% yield | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H15ClN4O3
